US08022223B2
N-(5-Bromo-3-phenoxypyridin-2-yl)thiazolo[5,4-b]pyridin-2-amine
Heated a mixture of 2-chloro-3-isothiocyanatopyridine (0.257 g, 1.51 mmol) and 5-bromo-3-phenoxypyridin-2-amine (0.400 g, 1.51 mmol) in DMF (4 mL) at 80° C. for 3 hours. Heated at 120° C. overnight. Cooled, partitioned between 2N NaOH and ethyl acetate. Washed the organic layer twice with water, brine, dried, and concentrated. Subjected the residue to Biotage, eluting with 3:1 hexane:ethyl acetate to afford the title compound (0.465 g, 77.2% yield) as a white powder. 1H NMR (d6-DMSO) δ 7.15 (d, 2H), 7.23 (t, 1H), 7.40-7.50 (m, 4H), 7.92 (s, 1H), 8.34 (s, 1H), 8.37 (d, 1H), 11.63 (bs, 1H).

reactant | 2-chloro-3-isothiocyanatopyridine | 1.51 mmol, 0.257 g | ClC1=NC=CC=C1N=C=S | C6H3ClN2S
reactant | 5-bromo-3-phenoxypyridin-2-amine | 1.51 mmol, 0.400 g | BrC=1C=C(C(=NC1)N)OC1=CC=CC=C1 | C11H9BrN2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | N-(5-Bromo-3-phenoxypyridin-2-yl)thiazolo[5,4-b]pyridin-2-amine | 0.465 g, 77.2% yield | BrC=1C=C(C(=NC1)NC=1SC2=NC=CC=C2N1)OC1=CC=CC=C1 | C17H11BrN4OS
